US06403804B1
Synthesis of Ethyl (R)-4-Azido-3-Acetoxybutyrate
In a 100 ml four-necked flask were charged 5.0 g (28.8 mmol) of ethyl (R)-4-azido-3-hydroxybutyrate, 3.5 g (34.6 mmol) of triethylamine, 0.11 g (0.900 mmol) of 4-dimethylaminopyridine and 50 ml of tetrahydrofuran, and after the mixture was cooled to 0° C., 2.50 g (31.8 mmol) of acetyl chloride was slowly added thereto dropwise in a nitrogen stream. After the addition, the reaction mixture was further stirred at room temperature overnight, and then the solvent was distilled under reduced pressure to give 4.94 g of a concentrate. The concentrate was subjected to column chromatography (ethyl acetate/hexane=1/10 by volume) to obtain 4.50 g (73%) of the title compound.

reactant | ethyl (R)-4-azido-3-hydroxybutyrate | 28.8 mmol, 5.0 g | N(=[N+]=[N-])C[C@@H](CC(=O)OCC)O | C6H11N3O3
reactant | triethylamine | 34.6 mmol, 3.5 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | acetyl chloride | 31.8 mmol, 2.50 g | C(C)(=O)Cl | C2H3ClO
catalyst | 4-dimethylaminopyridine | 0.900 mmol, 0.11 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | Ethyl (R)-4-Azido-3-Acetoxybutyrate | 4.50 g, 73% | N(=[N+]=[N-])C[C@@H](CC(=O)OCC)OC(C)=O | C8H13N3O4
